### ISSUE TITLE
How to resolve the lean that are not compilable?

### ISSUE THREAD

**Issue by allanj** [RickySkywalker/TheoremLlama#2]
some of the lean programs seem not compilable?

```lean
import Mathlib
import Aesop
set_option maxHeartbeats 0
open BigOperators Real Nat Topology Rat

-- Prove the following lean4 statement:
-- example : @Acc.ndrec = @Acc.ndrecC :=
example : @Acc.ndrec = @Acc.ndrecC := by
  -- Show that the notion of accessibility predicate `Acc.ndrec` is equivalent to the notion of accessibility predicate `Acc.ndrecC`.
  --
  -- By unfolding the definition of `Acc.ndrec` and `Acc.ndrecC`, we can see that they are definitionally equal.
  funext α r motive intro a t
  rw [Acc.ndrec, rec_eq_recC, Acc.ndrecC]

```

```bash
temp.lean:8:23
invalid use of field notation with `@` modifier
temp.lean:13:17
unknown identifier 'rec_eq_recC'
temp.lean:13:17
tactic 'rewrite' failed, equality or iff proof expected
```

**Comment by RickySkywalker** [comment]
Would you like to provide the idx of the given theorem in the dataset so that we can better allocate the question? THX :)
